US08048901B2
Ethyl 5-(2-methoxyethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate
3.5 g of dried ethyl 3-[2-(2-methoxyethoxy)-5-nitropyridin-4-yl]-2-oxopropionate potassium salt are dissolved in 50 ml of MeOH, and 2 ml of acetic acid are added. After the addition of 500 mg of palladium hydroxide/C 20%, the mixture is stirred under 1 atm of hydrogen. After 5 h, a further 200 mg of catalyst and 0.75 ml of trifluoroethanol are added. After a further 3 h, all volatile components are removed under reduced pressure and 20 ml of sat. sodium bicarbonate solution are added and the mixture is extracted with ethyl acetate. The organic phase is dried over sodium sulfate and the solvent is removed under reduced pressure. The residue is purified by flash chromatography on silica gel (n-heptane/ethyl acetate=1:2). This gives ethyl 5-(2-methoxyethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate as a yellowish solid. C13H16N2O4 (264.28), MS (ESI): 265 (M+H+).

reactant | ethyl 3-[2-(2-methoxyethoxy)-5-nitropyridin-4-yl]-2-oxopropionate potassium salt | 3.5 g | [K].COCCOC1=NC=C(C(=C1)CC(C(=O)OCC)=O)[N+](=O)[O-]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | trifluoroethanol | 0.75 ml | C(C(F)(F)F)O | C2H3F3O
solvent | MeOH | 50 ml | CO | CH4O
catalyst | palladium hydroxide | 500 mg | [OH-].[Pd+2].[OH-]
product | Ethyl 5-(2-methoxyethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | COCCOC=1C=C2C(=CN1)NC(=C2)C(=O)OCC | C13H16N2O4
